US03994936
vanadium oxytrichloride is reacted with tri-4-biphenylyl-silanol [m.p.: 199°- 200° C.] to produce tris-[tri-(4-biphenylyl)-siloxy]-vanadium oxide.

reactant | vanadium oxytrichloride | O=[V].Cl.Cl.Cl
reactant | tri-4-biphenylyl-silanol | C1(=CC=C(C=C1)[Si](O)(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OSi
product | tris-[tri-(4-biphenylyl)-siloxy]-vanadium oxide | [O-2].C1(=CC=C(C=C1)[Si](O[V+2](O[Si](C1=CC=C(C=C1)C1=CC=CC=C1)(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)O[Si](C1=CC=C(C=C1)C1=CC=CC=C1)(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/3C36H27OSi.O.V/c3*37-38(34-22-16-31(17-23-34)28-10-4-1-5-11-28,35-24-18-32(19-25-35)29-12-6-2-7-13-29)36-26-20-33(21-27-36)30-14-8-3-9-15-30;;/h3*1-27H;;/q3*-1;-2;+5
